US07754679B2
9.06 g of tyrosine was dissolved in a solution of 10 g of concentrated sulfuric acid, 20 mL water, 10 mL of octanol, and 200 mL of toluene in a 500 mL round bottom flask equipped with a condenser and a Dean-Stark apparatus. The resulting solution was heated at reflux temperature until no more water could be distilled. The resulting solution was then cooled to room temperature and washed with saturated aqueous sodium bicarbonate to neutralize acidic impurities to provide an emulsion. About 150 mL of ethyl acetate was added to the emulsion to provide two phases. The aqueous phase was discarded and the organic phase washed with saturated Brine and dried over anhydrous sodium sulfate. The solvent was the removed under reduced pressure to provide tyrosine octanoate as a white solid that was purified using a silica gel column eluted with a 1:9 methanol:dichloromethane mixture.

reactant | tyrosine | 9.06 g | N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C9H11NO3
reactant | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
solvent | sulfuric acid | 10 g | S(O)(O)(=O)=O | H2O4S
solvent | water | 20 mL | O | H2O
solvent | octanol | 10 mL | C(CCCCCCC)O | C8H18O
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | tyrosine octanoate | C(CCCCCCC)(=O)OC1=CC=C(C[C@H](N)C(=O)O)C=C1 | C17H25NO4
